US03959322
Prepare a solution of ether (100 ml), aluminum chloride (13.3 g) and lithium aluminum hydride (15 ml. of a 1 M solution). Stir for 20 minutes. Add to a cool solution of dl-13-ethyl-3-methoxygona-1,3,5(10)-trien-17-one, cyclic ethylene ketal (17.1 g) in ether (1,000 ml). Stir the reaction mixture and cool in an ice-water bath for 4 hours. Dilute with 2 N sulfuric acid until a clear solution results. Separate the ether layer, wash with saturated sodium bicarbonate solution, and evaporate. Treat the residue with ethanol (200 ml), concentrated hydrochloric acid (5 ml) and water (10 ml) on a steam bath for 30 minutes. Evaporate, then recrystallize from ethanol to obtain dl-13-ethyl-17β-(2-hydroxyethoxy)-3-methoxygona-1,3,5(10)-triene (8.1 g), m.p. 131°-132°; ultraviolet absorption peak at 278 mμ (ε2,130), infrared maximum at 2.93 μ.

reactant | aluminum chloride | 13.3 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 13-ethyl-3-methoxygona-1,3,5(10)-trien-17-one | C(C)[C@]12C(CC[C@H]2[C@H]2[C@H](CC1)C=1C=CC(=CC1CC2)OC)=O | C20H26O2
reactant | ether | 1,000 ml | CCOCC | C4H10O
reactant | ether | 100 ml | CCOCC | C4H10O
solvent | sulfuric acid | 2 N | S(O)(O)(=O)=O | H2O4S
product | 13-ethyl-17β-(2-hydroxyethoxy)-3-methoxygona-1,3,5(10)-triene | 8.1 g | C(C)[C@]12[C@H](CC[C@H]2[C@H]2[C@H](CC1)C=1C=CC(=CC1CC2)OC)OCCO | C22H32O3
